US08541594B2
Into a 250 ml round bottom flask containing the bicyclo[3.2.1]octane-2,4-dione (10 g, 72 mmol) is added dry dichloromethane (100 ml) and pyridine (6.28 g, 87 mmol). To the stirred mixture is added dropwise over a period of 15 minutes the chloroacetyl chloride (9.82 g, 72 mmol) diluted in dichloromethane (100 ml). The reaction mixture is therefore stirred for 2 hours at room temperature. The reaction mixture is therefore poured into 100 ml of aqueous 2N HCl and extracted with ethyl acetate (2×100 ml). The combined organic extracts are dried over magnesium sulphate, filtered and evaporated under reduced pressure to give an orange oil. The crude product is distilled under reduced pressure to give chloro-acetic acid 4-oxo-bicyclo[3.2.1]oct-2-en-2-yl ester (13.4 g).

reactant | bicyclo[3.2.1]octane-2,4-dione | 72 mmol, 10 g | C12C(CC(C(CC1)C2)=O)=O | C8H10O2
reactant | pyridine | 87 mmol, 6.28 g | N1=CC=CC=C1 | C5H5N
reactant | chloroacetyl chloride | 72 mmol, 9.82 g | ClCC(=O)Cl | C2H2Cl2O
reactant | HCl | 2N | Cl | ClH
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | chloro-acetic acid 4-oxo-bicyclo[3.2.1]oct-2-en-2-yl ester | 13.4 g | O=C1C=C(C2CCC1C2)OC(CCl)=O | C10H11ClO3
